US07214802B2
A suspension of 100 mg (0.52 mmol) of 3-azido-4,5-dimethyl benzoic acid (U.S. Ser. No. 04/102,492), 54 mg (0.52 mmol) of 3-ethynyl pyridine, and 200 μL of EtOH was heated to 120° C. in a sealed tube for 12 h. The mixture was cooled and diluted with 500 μL of EtOH. The mixture was filtered and the solids were washed with EtOH (3×0.5 mL). The solids were dried to provide 50 mg of 3,4-dimethyl-5-(4-pyridin-3-yl-[1,2,3]triazol-1-yl)-benzoic acid.

reactant | 3-azido-4,5-dimethyl benzoic acid | 0.52 mmol, 100 mg | N(=[N+]=[N-])C=1C=C(C(=O)O)C=C(C1C)C | C9H9N3O2
reactant | 3-ethynyl pyridine | 0.52 mmol, 54 mg | C(#C)C=1C=NC=CC1 | C7H5N
solvent | EtOH | 500 μL | CCO | C2H6O
solvent | EtOH | 200 μL | CCO | C2H6O
product | 3,4-dimethyl-5-(4-pyridin-3-yl-[1,2,3]triazol-1-yl)-benzoic acid | 50 mg | CC=1C=C(C(=O)O)C=C(C1C)N1N=NC(=C1)C=1C=NC=CC1 | C16H14N4O2
